US09290460B2
Compounds of this invention can be prepared as illustrated by the exemplary reaction in Scheme 2. Reaction of the intermediate 2,4-di(trimethylsiloxy)quinazoline with a substituted alkyl 3-(halomethyl)benzoate, such as methyl 5-(bromomethyl)-2-fluorobenzoate in DMF, followed by treatment with 1,4-dioxane and methanol, produced 1-(4-fluoro-3-methoxycarbonylbenzyl)quinazoline-2,4(1H,3H)-dione. Treatment of the ester with NaOH in water-methanol produced 1-(3-carboxy-4-fluorobenzyl)quinazoline-2,4(1H,3H)-dione. Coupling of the acid with a substituted amine, such as 1-cyclopentylcarbonylpiperazine, in the presence of coupling agents, such as HATU and DIPEA in DMF, produced the targeted compound 1-(3-(4-cyclopentylcarbonylpiperazine-1-carbonyl)-4-fluorobenzyl)quinazoline-2,4(1H,3H)-dione.

reactant | 2,4-di(trimethylsiloxy)quinazoline | C[Si](OC1=NC2=CC=CC=C2C(=N1)O[Si](C)(C)C)(C)C | C14H22N2O2Si2
reactant | methyl 5-(bromomethyl)-2-fluorobenzoate | BrCC=1C=CC(=C(C(=O)OC)C1)F | C9H8BrFO2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-3-methoxycarbonylbenzyl)quinazoline-2,4(1H,3H)-dione | FC1=C(C=C(CN2C(NC(C3=CC=CC=C23)=O)=O)C=C1)C(=O)OC | C17H13FN2O4
